US04929637
4-[1-(Ethylamino)ethyl]-5-methylsulfonylthiophene-2-sulfonamide
To a stirred refluxing solution of 4-(1-acetamidoethyl)-5-methylsulfonylthiophene-2-sulfonamide (2.52 g, 0.0077 mol) in dry tetrahydrofuran (25 ml) under nitrogen atmosphere was added dropwise a solution of borane dimethylsulfide complex (2.3 ml, 0.023 mol) in THF (10 ml) over 1/2 hour. Reflux was continued for 1 hour. The solution was cooled in ice and acidified with 6N HCl (10 ml). The acidified solution was concentrated in vacuo. The residue was basified with saturated NaHCO3 solution and was extracted with ethyl acetate. The product was extracted into 3N HCl. This was again basified with saturated NaHCO3 solution, extracted with ethyl acetate, washed with saturated NaCl solution, dried over anhydrous Na2SO4, filtered and concentrated in vacuo. A white solid was obtained (1.33 g) (55%), m.p. 162.5-165° C. Recrystallization from ethyl acetate gave 1.23 g of product, m.p. 164-165.5° C. HPLC and TLC confirmed the purity and NMR confirmed the structure.

reactant | 4-(1-acetamidoethyl)-5-methylsulfonylthiophene-2-sulfonamide | 0.0077 mol, 2.52 g | C(C)(=O)NC(C)C=1C=C(SC1S(=O)(=O)C)S(=O)(=O)N | C9H14N2O5S3
reactant | HCl | 6N, 10 ml | Cl | ClH
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-[1-(Ethylamino)ethyl]-5-methylsulfonylthiophene-2-sulfonamide | 1.23 g | C(C)NC(C)C=1C=C(SC1S(=O)(=O)C)S(=O)(=O)N | C9H16N2O4S3
